US07378417B2
To a stirred solution of 4-(2-aminoethyl)-pyridine (1.21 g, 9.93 mmol) in dioxane (25 ml) was added at room temperature 3-nitrobenzenesulfonyl chloride (2.0 g, 9.02 mmol) and triethylamine (1.38 ml, 9.93 mmol). The light yellow suspension was stirred at room temperature for 6 h, poured into water (100 ml) and extracted with dichloromethane (6×75 ml). The combined organic layers were washed with water (100 ml) and brine (70 ml), dried (MgSO4) and evaporated. The crude product was further purified by crystallization from methanol/hexane to yield 3-nitro-N-(2-pyridine-4-yl-ethyl)-benzenesulfonamide (1.63 g, 59%) as an orange solid. MS (ISP) 306.1 [(M−H)−]; mp 153° C.

reactant | 4-(2-aminoethyl)-pyridine | 9.93 mmol, 1.21 g | NCCC1=CC=NC=C1 | C7H10N2
reactant | 3-nitrobenzenesulfonyl chloride | 9.02 mmol, 2.0 g | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | triethylamine | 9.93 mmol, 1.38 ml | C(C)N(CC)CC | C6H15N
reactant | water | 100 ml | O | H2O
solvent | dioxane | 25 ml | O1CCOCC1 | C4H8O2
product | 3-nitro-N-(2-pyridine-4-yl-ethyl)-benzenesulfonamide | 1.63 g, 59% | [N+](=O)([O-])C=1C=C(C=CC1)S(=O)(=O)NCCC1=CC=NC=C1 | C13H13N3O4S
